US05716936
A The process is performed as described in Example 2A, but starting with 3 g of (2RS,4SR,5RS)-1-{2-[3-(3-benzyloxycarbonylphenyl)ureido]acetyl}-5-(2-fluorophenyl)-4-morpholinosulphonyl-2-(3,3-dimethylbutyl)carbamoylpyrrolidine, 0.3 g of 10% palladium-on-charcoal and 100 cm3 of ethanol under a hydrogen atmosphere (130 kPa). After treatment, 2.2 g of (2RS,4SR,5RS)-3-(3-{2-[2-(3,3-dimethylbutyl)carbamoyl-5-(2-fluorophenyl)-4-morpholinosulphonyl-1-pyrrolidinyl]-2-oxoethyl}ureido)benzoic acid are obtained [Rf=0.25; eluent: methylene chloride/methanol (90/10)].

reactant | (2RS,4SR,5RS)-1-{2-[3-(3-benzyloxycarbonylphenyl)ureido]acetyl}-5-(2-fluorophenyl)-4-morpholinosulphonyl-2-(3,3-dimethylbutyl)carbamoylpyrrolidine | 3 g | C(C1=CC=CC=C1)OC(=O)C=1C=C(C=CC1)NC(NCC(=O)N1C(CC(C1C1=C(C=CC=C1)F)S(=O)(=O)N1CCOCC1)C(NCCC(C)(C)C)=O)=O | C38H46FN5O8S
reactant | ethanol | 100 cm3 | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 0.3 g | [Pd] | Pd
solvent | methylene chloride methanol | C(Cl)Cl.CO
product | (2RS,4SR,5RS)-3-(3-{2-[2-(3,3-dimethylbutyl)carbamoyl-5-(2-fluorophenyl)-4-morpholinosulphonyl-1-pyrrolidinyl]-2-oxoethyl}ureido)benzoic acid | 2.2 g | CC(CCNC(=O)C1N(C(C(C1)S(=O)(=O)N1CCOCC1)C1=C(C=CC=C1)F)C(CNC(NC=1C=C(C(=O)O)C=CC1)=O)=O)(C)C | C31H40FN5O8S
